US08071584B2
Ethyl 5-bromo-3-(2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
To a solution of 2-phenylthian-4-one (SJTU) (0.900 g, 4.68 mmol) in dichloromethane (DCM) (15 mL), cooled on an ice bath to 0° C., under argon, was added dropwise trimethylsilyl trifluoromethanesulfonate (1.807 mL, 10 mmol) over 10 minutes, an additional portion of dry DCM (5 mL) was used to wash the addition funnel walls. To this mixture ethyl 5-bromo-1H-indole-7-carboxylate (1.340 g, 5.00 mmol) was added dropwise, in solution with of dry DCM, over 2 hours. Finally, triethylsilane (3.19 mL, 20 mmol) was added in one portion and the mixture was stirred 2 h at ca 0° C., and left stirring at 23° C. 16 h. The reaction was quenched with a saturated aqueous solution of sodium bicarbonate, and the resulting biphasic mixture partitioned with DCM to afford 2.21 g of brow gummy oil. LCMS of product may indicate an overlapping mixture of ca 5:2 major to minor isomers (cis/trans).

reactant | 2-phenylthian-4-one | 4.68 mmol, 0.900 g | C1(=CC=CC=C1)C1SCCC(C1)=O | C11H12OS
reactant | trimethylsilyl trifluoromethanesulfonate | 10 mmol, 1.807 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | ethyl 5-bromo-1H-indole-7-carboxylate | 5.00 mmol, 1.340 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | triethylsilane | 20 mmol, 3.19 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | DCM | 5 mL | ClCCl | CH2Cl2
product | Ethyl 5-bromo-3-(2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SCC1)C1=CC=CC=C1 | C22H22BrNO2S
